US07456289B2
10% Pd/C (1.000 g, 11.6 mmol) was added to a solution of 4-chloro-2-methoxy-7H-pyrrolo[2,3-d]pyrimidine (0.200 g, 1.09 mmol) in 20 mL anhydrous MeOH under H2 at room temperature. The mixture was stirred for 8 h and then filtered through a pad of Celite. The filtrate was concentrated in vacuo to give 2-methoxy-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine as a major product.

reactant | 4-chloro-2-methoxy-7H-pyrrolo[2,3-d]pyrimidine | 1.09 mmol, 0.200 g | ClC=1C2=C(N=C(N1)OC)NC=C2 | C7H6ClN3O
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 11.6 mmol, 1.000 g | [Pd] | Pd
product | 2-methoxy-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC=1N=CC2=C(N1)NCC2 | C7H9N3O
